US06610723B2
To a solution of methylmagnesium iodide in ether (3 M, 13.7 ml, 41.1 mmol) and ether (40 ml), 1-(3,4-dichloro-phenyl)-1H-imidazole-4-carbaldehyde (2.58 g, 10.7 mmol) was added in portions. THF (50 ml) was then added slowly and stirring was continued for 1 h at reflux. After the addition of aqueous ammonium chloride (saturated, 30 ml), the mixture was extracted with AcOEt. The organic phase was dried (Na2SO4) and evaporated to give 1-[1-(3,4-dichloro-phenyl)-1H-imidazol-4-yl]-ethanol (2.56 g, 93%) as a light brown solid. MS: m/e=257.0 (M+H+).

reactant | methylmagnesium iodide | C[Mg]I
reactant | 1-(3,4-dichloro-phenyl)-1H-imidazole-4-carbaldehyde | 10.7 mmol, 2.58 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)C=O | C10H6Cl2N2O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 41.1 mmol, 3 M, 13.7 ml | CCOCC | C4H10O
product | 1-[1-(3,4-dichloro-phenyl)-1H-imidazol-4-yl]-ethanol | 2.56 g, 93% | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)C(C)O | C11H10Cl2N2O
